US05019578
2-Isobutyramido-5-bromopyridine
A solution of 79 g of 2 amino-5-bromopyridine and 110 ml of isobutyric anhydride in 120 ml of methylene chloride was stirred at room temperature for 24 hours. To this mixture was added slowly 100 ml of 50% NaOH solution to hydrolyze excess anhydride. Water and additional methylene chloride were added and the layers separated. The aqueous layer was further extracted with methylene chloride and the combined organic extracts backwashed with water and dried with anhydrous magnesium sulfate. The solution was concentrated to afford 106.5 g of product.

reactant | amino-5-bromopyridine | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | isobutyric anhydride | 110 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-Isobutyramido-5-bromopyridine | 106.5 g | C(C(C)C)(=O)NC1=NC=C(C=C1)Br | C9H11BrN2O
